US06599917B1
c) 2-Methoxy-3-[2-thienyl(hydroxy)methyl]pyridine
303 mg of sodium borohydride was added little by little to a solution containing 1.46 g of 2-methoxy-3-(2-thienylcarbonyl)pyridine and 10 ml of ethanol under ice-cooling. After stirring at room temperature for 2 hours, water was slowly added thereto and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed, to give 1.47 g of the target compound.

reactant | sodium borohydride | 303 mg | [BH4-].[Na+]
reactant | 2-methoxy-3-(2-thienylcarbonyl)pyridine | 1.46 g | COC1=NC=CC=C1C(=O)C=1SC=CC1 | C11H9NO2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Methoxy-3-[2-thienyl(hydroxy)methyl]pyridine | 1.47 g | COC1=NC=CC=C1C(O)C=1SC=CC1 | C11H11NO2S
